US03996230
A stirred mixture of 1,8-dibromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine (2.19 g.) and 1-methylpiperazine (10 ml.) is kept under nitrogen at 125°-130° C. for 15.5 hours and at 135°-145° C. for 24 hours. It is then cooled, mixed with cold water, treated with a little sodium bicarbonate and extracted with chloroform. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue is treated successively with xylene and toluene with concentration after each addition and the resulting material is chromatographed on silica gel (150 g.) with mixtures of chloroform and methanol containing 5-10% methanol. The product thus obtained is crystallized from methanol-ethyl acetate to give 8-bromo-1-(4-methylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in 4 crops as follows: 0.799 g., melting point 250.5°-253.5° dec; 0.062 g., melting point 248.5-249.5° dec; 0.344 g., melting point 250°-252° dec., and 0.206 g., melting point 245.5°-247.5° dec. The analytical sample has a melting point of 252°-253° dec.

reactant | 1,8-dibromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 2.19 g | BrC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C=C1)Br | C15H9Br2N5
reactant | 1-methylpiperazine | 10 ml | CN1CCNCC1 | C5H12N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 8-bromo-1-(4-methylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)N3CCN(CC3)C)C3=NC=CC=C3)C1 | C20H20BrN7
